US06281381B1
A 250 ml flask was fitted with a mechanical stirrer, a thermometer, and a reflux condenser. The flask was charged with 41.1 ml of a solution of sodium hydroxide in ethanol (0.49N, 20.1 mmol), 8.9 ml of ethanol, water (0 to 40 mol. eq., according to the crystal form desired), and 5g (20.1 mmol) of anhydrous alendronic acid. The reaction mixture was boiled with vigorous stirring for about 15 hours until the of pH of the liquid phase remained constant (approx. pH 7). After cooling of the reaction mixture to ambient temperature, the solid material was filtered, washed with absolute ethanol, and dried overnight in a vacuum oven (10-15 mmHg, ambient temperature) to give 96-99% sodium alendronate having the following crystal forms: crystal Form D, when 0-4 (preferably 0-2) mol. eq. water were used; crystal Form F, when 5-8 (preferably 6-7) mol. eq. water were used; crystal Form E, when 9-15 (preferably 12) mol. eq. water were used; and crystal Form G, when 15-40 (preferably 25-35) mol. eq. water were used. The monosodium salt was confirmed by atomic absorption and by measuring the pH of a 0.5% aqueous solution of the salt (approx. pH 4.4).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | alendronic acid | C(CC(O)(P(=O)(O)O)P(=O)(O)O)CN | C4H13NO7P2
solvent | ethanol | 8.9 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethanol | 20.1 mmol, 0.49N | C(C)O | C2H6O
product | sodium alendronate | 96-99% | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.[Na+] | InChI=1S/C4H13NO7P2.Na/c5-3-1-2-4(6,13(7,8)9)14(10,11)12;/h6H,1-3,5H2,(H2,7,8,9)(H2,10,11,12);/q;+1/p-1
